US04396728
There was added to about 124 parts of the above N-propyl-3-amino propanol dissolved in 1194 parts of chloroform under an atmosphere of nitrogen and at a temperature of about 0° C., 189 parts of thionyl chloride at a rate which was sufficient to maintain the temperature of the resulting reaction mixture below 20° C. When the addition was complete, the solution was brought to reflux for 30 minutes. The reaction mixture was then quenched with excess ethanol and concentrated to provide a yellow viscous oil. There was obtained a quantitative yield of N-propylamino-3-chloro propane hydrochloride after the aforementioned yellow viscous oil was crystallized from ethanol in the form of a white crystalline solid; (M.P. 246°-247° C.).

reactant | N-propyl-3-amino propanol | C(CC)NCCCO | C6H15NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | N-propylamino-3-chloro propane hydrochloride | quantitative yield | Cl.C(CC)NCCCCl | InChI=1S/C6H14ClN.ClH/c1-2-5-8-6-3-4-7;/h8H,2-6H2,1H3;1H
